US03932407
Ethyl β-(o-Nitrobenzylamino)-propionate (see J.A.C.S., 80, 1168 (1958)
o-Nitrobenzylamine hydrochloride (20.4 g., 0.114 mole) was dissolved in a minimum volume of water and the solution was made strongly basic by addition of 10% sodium hydroxide. The clear oil which formed was extracted into two 120-ml. portions of ether. The ether was dried with 10 g. of anhydrous sodium sulfate, filtered, and finally dried over Drierite. The dried solution was filtered and evaporated, leaving a yellow oil. The oil was dissolved in 100 ml. of absolute ethanol and 11.4 g (0.114 mole) of freshly distilled ethyl acrylate was added. This solution was allowed to stand overnight and the solvent removed by distillation from a steam-cone. The oily residue was dissolved in 200 ml. of dry ether, the solution was cooled in an ice bath, and treated with dry hydrogen chloride. When precipitation was complete, the solid was filtered and dissolved in 120 ml. of boiling absolute ethanol. The hydrochloride crystallized from this solution on cooling yielding 20.7 g. of the aminopropionate hydrochloride, m.p. 137.5°-139.0°. By concentrating and cooling the mother liquor, an additional 5 g. was obtained, m.p. 136.5°-138.5°, and by repeating this operation 1.1 g., m.p. 136°-139°, was obtained, raising the total yield to 26.8 g. (81.4%). The analytical sample was prepared by repeated crystallization from absolute ethanol to give a melting point of 138.5°-139.0°.

reactant | o-Nitrobenzylamine hydrochloride | 0.114 mole, 20.4 g | Cl.[N+](=O)([O-])C1=C(CN)C=CC=C1
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
reactant | aminopropionate hydrochloride | Cl.NC(C(=O)O)C
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | Ethyl β-(o-Nitrobenzylamino)-propionate | [N+](=O)([O-])C1=C(CNCCC(=O)OCC)C=CC=C1 | C12H16N2O4
